US06498172B1
3-{3-[(4-Pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester.
The title compound of Step A was prepared from 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt, of Preparation 44, and 4-pyrazin-2-yl-benzaldehyde, of Preparation 27, using the method described in Example 1, Step A except the imine was formed in MeOH at reflux over 2 h. 1H NMR (400 MHz, CDCl3) δ 9.01 (s, 1H), 8.62 (dd, 1H), 8.49 (d, 1H), 7.98 (d, 2H), 7.66 (m, 1H), 7.54-7.43 (m, 3H), 7.24 (m, 1H), 7.09 (m, 1H), 3.88 (s, 2H), 3.80 (s, 2H), 3.66 (s, 3H), 2.94 (t, 2H), 2.63 (t, 2H); MS 362 (M+1).

reactant | 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt | Cl.COC(CCC1=CC(=CC=C1)CN)=O
reactant | 4-pyrazin-2-yl-benzaldehyde | N1=C(C=NC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
solvent | MeOH | CO | CH4O
product | 3-{3-[(4-Pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C22H23N3O2
